2199-02-11 05:57:00 Physician Resident Progress Note
24 Hour Events:
   Overnight Pt increasingly hypotensive. Appears comfortable, well
   sedated, no acute distress. Family notified at approximately 3 AM as Pt
   was persistently hypotensive to 40s systolic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-2-11**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-11**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 84 (53 - 94) bpm
   BP: 42/31(34) {34/23(26) - 83/62(66)} mmHg
   RR: 20 (0 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,113 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                  2,210 mL
                                                                     75 mL
   Blood products:
                                                                  1,403 mL
   Total out:
                                                                     89 mL
                                                                      0 mL
   Urine:
                                                                     89 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,024 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 160 (160 - 160) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: CMO
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 20.6 cmH2O/mL
   SpO2: 98%
   ABG: ////
   Ve: 7.5 L/min
   Physical Examination
   Labs / Radiology
   24.2 %
        [image002.jpg]
                             [**2199-2-10**]  03:22 AM
                             [**2199-2-10**]  11:02 AM
   Hct
   24.2
   TCO2
   26
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Assessment and Plan: [**Age over 90 **] y/o F CHF, A Fib on coumadin, chronic
   thromboembolic PHTN who presents with hematemesis. Patient recently
   discharged home with hospice [**2199-2-8**] from [**Hospital1 2259**] service following
   complicated admission with CHF exacerbation, renal failure and
   hematemesis. Pt is DNR/DNI w/ minimal escalation of care.
   .
   # Goals of care: Pt appears comfortable and sedated this AM and
   throughout the night yesterday. Per discussion with family and
   physicians involved in recent hospitalization, plan most consistent w/
   pt
s wishes is for no aggressive measures, minimal escalation of care.
   Family intermittently present at bedside, aware that Pt is critically
   ill.
   - Continue fentanyl, midazolam gtt titrated to Pt comfort, sedation
   - Can discuss extuabtion with family in AM, but will continue
   mechanical ventilation for now
   .
   # Hematemesis: Significant upper GI bleed with hematocrit drop 20 from
   most recent HCT of 25. Etiology most likely esophagitis, gastritis
   versus peptic ulcer disease. Prior EGD [**2193**] demonstrates gastritis
   (history of h. pylori).
   - No plans for scope given overall goals of care for this Pt
   - Protonix 40 mg IV BID
   - NPO
   .
   # Positive Ua: Patient oliguric with multiple prior positive cultures
   for KLEBSIELLA and is most likely colonized. Patient treated last
   admission for Klebsiella with ceftriaxone.
   - Hold off on ABx treatment as most likely is colonized.
   .
   # CHF: Severe diastolic dysfunction and TR. Recent admission with
   aggressive diuresis.
   -
   .
   # Atrial fibrillation: Currently irregular rate. Patient is not
   anticoagulated based on goals of care.
   - Hold Lopressor due to hypotension
   .
   # CKD: Baseline renal insufficiency worsened last admission, continues
   to climb. Lytes within normal limits.
   - No labs this AM per Pt comfort
   .
   # Med Rec: Patient currently NPO. Hold recent discharge medications:
   benzonatate, alum-mag hydroxide, tylenol, docusate, morphine,
   compazine, Guaifenesin.
   ..
   # FEN: NPO
   # Prophylaxis: pneumoboots
   # Access: peripherals X 2
   # Communication: Patient , family
   # Code:  DNR
   # Disposition: ICU pending goals of care discussion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-2-10**] 04:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2199-02-12 07:17:00 Physician Resident Progress Note
24 Hour Events:
   No events overnight. Pt maintaining SBP in 40s-70s, appears
   comfortable. Multiple family members visiting during the day, family
   still considering possible extubation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-12**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.3
   HR: 59 (59 - 85) bpm
   BP: 46/31(35) {42/26(30) - 75/46(52)} mmHg
   RR: 20 (20 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    274 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                    274 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                     12 mL
                                                                      6 mL
   Urine:
                                                                     12 mL
                                                                      6 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    262 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: CMO
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 7.1 L/min
   Physical Examination
   Gen: Sedated, Intubated, appears comfortable
   Labs / Radiology
   24.2 %
        [image002.jpg]
                             [**2199-2-10**]  03:22 AM
                             [**2199-2-10**]  11:02 AM
   Hct
   24.2
   TCO2
   26
   Assessment and Plan
   Assessment and Plan: [**Age over 90 **] y/o F CHF, A Fib on coumadin, chronic
   thromboembolic PHTN who presents with hematemesis. Patient recently
   discharged home with hospice [**2199-2-8**] from [**Hospital1 2259**] service following
   complicated admission with CHF exacerbation, renal failure and
   hematemesis. Pt is DNR/DNI w/ minimal escalation of care.
   .
   # Goals of care: Pt appears comfortable and sedated this AM and
   throughout the night yesterday. Per discussion with family and
   physicians involved in recent hospitalization, plan most consistent w/
   pt
s wishes is for no aggressive measures, minimal escalation of care.
   Family intermittently present at bedside, aware that Pt is critically
   ill.
   - Continue fentanyl, midazolam gtt titrated to Pt comfort, sedation
   - [**Month (only) 60**] decrease FiO2 today
   - Can revisit possible extuabtion with family in AM, but will continue
   mechanical ventilation for now
   .
   # Hematemesis: Significant upper GI bleed with hematocrit drop 20 from
   most recent HCT of 25. Etiology most likely esophagitis, gastritis
   versus peptic ulcer disease. Prior EGD [**2193**] demonstrates gastritis
   (history of h. pylori).
   - No plans for scope given overall goals of care for this Pt
   - Protonix 40 mg IV BID
   - NPO
   .
   # Positive Ua: Patient oliguric with multiple prior positive cultures
   for KLEBSIELLA and is most likely colonized. Patient treated last
   admission for Klebsiella with ceftriaxone.
   - Hold off on ABx treatment as most likely is colonized.
   .
   # CHF: Severe diastolic dysfunction and TR. Recent admission with
   aggressive diuresis
    - No diuresis given hypotension
   .
   # Atrial fibrillation: Currently irregular rate. Patient is not
   anticoagulated based on goals of care.
   - Hold Lopressor due to hypotension
   .
   # CKD: Baseline renal insufficiency worsened last admission, continues
   to climb. Lytes within normal limits.
   - No labs this AM per Pt comfort
   .
   # Med Rec: Patient currently NPO. Hold recent discharge medications:
   benzonatate, alum-mag hydroxide, tylenol, docusate, morphine,
   compazine, Guaifenesin.
   .
   # FEN: NPO
   # Prophylaxis: pneumoboots
   # Access: peripherals X 2
   # Communication: Patient , family
   # Code:  DNR
   # Disposition: ICU pending goals of care discussion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-2-10**] 04:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: